US08492388B2
To a stirred solution of N-hydroxy-1-(1-methyl-1H-tetrazol-5-yl)-1-[3-(trifluoromethoxy)phenyl]methanimine (220 mg, 0.73 mmol) in acetonitrile (10 mL) were added cesium carbonate (498 mg, 1.53 mmol), potassium iodide (60 mg, 0.36 mmol) and 4-(chloromethyl)-1,3-thiazol-2-amine hydrochloride (156 mg, 0.80 mmol). After stirring for 18 h at room temperature, the mixture was filtered, the filtrate concentrated in vacuo. Purification of the residue on silica gel afforded 4-{[({(1-methyl-1H-tetrazol-5-yl)[3-(trifluoromethoxy)phenyl]methylene}amino)oxy]methyl}-1,3-thiazol-2-amine as an oil [230 mg, yield 79%; HPLC/MS:m/z=400 (M+H); log P(HCOOH)=2.10].

reactant | N-hydroxy-1-(1-methyl-1H-tetrazol-5-yl)-1-[3-(trifluoromethoxy)phenyl]methanimine | 0.73 mmol, 220 mg | ON=C(C1=CC(=CC=C1)OC(F)(F)F)C1=NN=NN1C | C10H8F3N5O2
reactant | cesium carbonate | 1.53 mmol, 498 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 0.36 mmol, 60 mg | [I-].[K+]
reactant | 4-(chloromethyl)-1,3-thiazol-2-amine hydrochloride | 0.80 mmol, 156 mg | Cl.ClCC=1N=C(SC1)N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-{[({(1-methyl-1H-tetrazol-5-yl)[3-(trifluoromethoxy)phenyl]methylene}amino)oxy]methyl}-1,3-thiazol-2-amine | yield 79% | CN1N=NN=C1C(C1=CC(=CC=C1)OC(F)(F)F)=NOCC=1N=C(SC1)N | C14H12F3N7O2S
